US08030489B2
To a mixture of methyl (1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylate (0.84 g) and ethyl acetate (2.5 ml) was added a 4 M hydrogen chloride/ethyl acetate solution (5.0 ml) under ice-cooling, followed by stirring at room temperature for 2.5 hours. The reaction mixture was concentrated under reduced pressure to obtain methyl (1S,2R)-2-aminocyclopentanecarboxylate hydrochloride (0.72 g).

reactant | methyl (1S,2R)-2-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylate | 0.84 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCC1)C(=O)OC | C12H21NO4
reactant | hydrogen chloride ethyl acetate | 4 M, 5.0 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
product | methyl (1S,2R)-2-aminocyclopentanecarboxylate hydrochloride | 0.72 g | Cl.N[C@H]1[C@H](CCC1)C(=O)OC | InChI=1S/C7H13NO2.ClH/c1-10-7(9)5-3-2-4-6(5)8;/h5-6H,2-4,8H2,1H3;1H/t5-,6+;/m0./s1
